reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([H:11])/[C:6]1=[N:7]/[H:10],108.113599504768
[C:1](=[C:2]([O:3][H:7])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],39.95846107157311
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:2]1(=[O:3])[C:4]([H:10])([H:11])[O:5]/[C:6]1=[N:7]/[H:13].[N:1]([H:8])([H:9])[H:12],82.61922949144791
[C:1]([O:2][C:3]([C:4]([N:5]([C:6][O:7][H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],33.00658821512969
[C:1]([O:2][C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:15])[H:16].[H:14][H:17]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],62.2371005467976
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]([N:5]([C+:6]([O-:7])[H:16])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[O:3]([H:12])[H:13],64.12680611964001
[C:1](=[O+:2][C:3](=[C:4]([O-:5])[H:11])[H:10])([H:6])[H:8].[H:7][H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],5.830691282369116
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5][C:7]1([H:14])[H:15])([O:6][H:10])[H:9])[H:8],100.040139829783
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]/[C:6](=[O:7])[H:18])[H:13].[H:9][H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],39.64056011281581
[C:1]([N:2]([C:3]1([H:11])[O:4][C:5]([H:12])([H:13])[C:6]([H:14])([H:15])[O:7]1)[H:16])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],43.615435585989715
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:7][C:6](=[C:5]=[C:4]=[C:2]([C:3]([H:12])([H:13])[H:14])[H:11])[H:15])([H:8])([H:9])[H:10],108.108743232353
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5](=[O:6])[H:14])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],25.470898441268297
[C:1]([N:2](/[C:3]([O:4][C:6]([H:12])([H:13])[H:14])=[N:5]\[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],56.46392681805639
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1](=[C:2]([C:6](=[C:5]([H:12])[H:13])[H:14])[H:9])([H:7])[H:8].[C:3](=[O:4])([H:10])[H:11],88.3777273296698
[O:1]1[C@:2]2([C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[C@@:5]1([H:12])[C:6]([H:13])([H:14])[C@@:7]21[H:15]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]2([H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15],76.2002025002881
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:3]([C:4]1([O:5][H:14])[C:6]([H:15])([H:16])[C:7]1([H:11])[H:17])([H:12])[H:13])([H:8])([H:9])[H:10],82.5649392778615
[C:1](=[C:2]1[C:3]([H:10])([H:11])[C@@:4]2([H:12])[C:5]([H:13])=[C:6]([H:14])[C@@:7]12[H:15])([H:8])[H:9]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],119.83658989928489
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])(/[N:5]=[C:6](/[O:7][H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],31.7729177654606
[C:1](/[C:2](=[C:3](/[C:4]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[C:5](=[C:6]([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17].[H:12][H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],47.81900593232389
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:6]#[C:7][H:15])[H:11])([H:8])[H:9].[C:3](=[C:4]=[C:5]([H:10])[H:14])([H:12])[H:13],56.7927338651909
[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],89.4768025457503
[O:1]=[C:2]([C:3]#[N+:4][N-:5][H:7])[H:6]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],56.919989603881994
